US07544835B2
3-(4-Ethoxy-3-{2-[(4-methoxyphenyl)-carbamoyloxy]ethyl}phenyl)-2-isopropoxypropanoic acid
Using ethyl 3-[4-ethoxy-3-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate and 4-methoxyphenylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[4-ethoxy-3-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate | C(C)OC1=C(C=C(C=C1)CC(C(=O)OCC)OC(C)C)CCO | C18H28O5
reactant | 4-methoxyphenylisocyanate | COC1=CC=C(C=C1)N=C=O | C8H7NO2
product | 3-(4-Ethoxy-3-{2-[(4-methoxyphenyl)-carbamoyloxy]ethyl}phenyl)-2-isopropoxypropanoic acid | C(C)OC1=C(C=C(C=C1)CC(C(=O)O)OC(C)C)CCOC(NC1=CC=C(C=C1)OC)=O | C24H31NO7
